US04987132
To a solution of 600 mg of N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4 carboxylic acid in 5 ml of tetrahydrofuran, there were added, at 4° C. or below, 350 mg of L-leucine methyl ester hydrochloride, 390 mg of 1-hydroxybenzotriazole, 190 mg of N-methylmorpholine and 440 mg of dicyclohexylcarbodiimide, in that order, and the mixture was stirred overnight in an icehouse. The resultant precipitate was filtered off, the filtrate was concentrated under reduced pressure, 50 ml of ethyl acetate was added, the insoluble matter was filtered off, and the filtrate was washed in sequence with 0.5M aqueous citric acid, water, saturated aqueous solution of sodium hydrogen carbonate and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 830 mg of oily [N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carbonyl]-L-leucine methyl ester. Trifluoroacetic acid (3 ml) was added to 800 mg of the thus obtained compound with ice cooling, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, 10 ml of ethyl acetate was added and the solution was again concentrated under reduced pressure. The residue was dissolved in 10 ml of ethyl acetate, 3 ml of 2.2N hydrogen chloride solution in dioxane was added with ice colling, and the mixture was allowed to stand overnight in an icehouse. The resultant crystals were collected by filtration, washed with ethyl acetate and dried to give 510 mg of [2-(3-pyridyl)thiazolidine-4-carbonyl]-L-leucine methyl ester dihydrochloride. Melting point 97°-100° C.

reactant | N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4 carboxylic acid | 600 mg | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | L-leucine methyl ester hydrochloride | 350 mg | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxybenzotriazole | 390 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 190 mg | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 440 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carbonyl]-L-leucine methyl ester | 830 mg | COC([C@@H](NC(=O)C1N(C(SC1)C=1C=NC=CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C21H31N3O5S
